US07795247B2
Step 2: Methyl 1-but-3-en-1-yl-3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate
To a 0.3M solution of methyl 3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate in dry DMF, 60% NaH (1.5 eq) in mineral oil was added at 0° C.; after stirring for 45 min at RT, 4-bromobut-1-ene (1.5 eq) was added and the suspension was stirred for 5 h at 40° C. and then 1 day at RT (NaH and 4-bromobut-1-ene were added several times). The mixture was diluted with EtOAc, washed with 1N HCl, water and brine, dried (Na2SO4) and concentrated in vacuo to give, after chromatography (PE/EtOAc 95:5), the title compound (60%) along with recovered starting material (40%); MS (ES+) m/z 414 (M+H)+.

reactant | methyl 3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)C=C | C24H25NO2
reactant | NaH | 1.5 eq | [H-].[Na+]
reactant | 4-bromobut-1-ene | 1.5 eq | BrCCC=C | C4H7Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 1-but-3-en-1-yl-3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate | C(CC=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=C | C28H31NO2
